* J:\thesis\simulations\mem_only_resistor_test.asc
XU1 N005 N001 N003 N007 N002 LT1001
XU2 N005 N011 N003 N007 N009 LT1001
XU3 N005 N013 N003 N007 N014 LT1001
XU4 N008 sum N003 N007 outintrnl LT1001
V1 N003 0 5
V2 N007 0 -5
R1 N009 N011 1000
R2 N002 N001 1000
R3 N002 sum 1980
R4 N014 N013 1000
R5 sum N012 1.33k
R6 sum input1 4.81k
R7 sum input2 2.81k
R8 N009 sum 1980
R9 N014 sum 1980
R10 N001 input2 1000
R11 N011 input1 1000
R12 N013 N012 1000
R13 outintrnl sum 2020
V3 N005 0 0
V4 N008 0 0
V5 input2 0 PULSE(-.100 .100 .001 .001 .001 .5 1)
V6 input1 0 PULSE(-.100 .100 .001 .001 .001 1 2)
V7 N012 0 .100
XU5 outintrnl N004 N006 N010 output LT1001
V9 N006 0 5
V10 N010 0 -5
V8 N004 0 000
.tran 10 startup
.lib LTC.lib
.backanno
.end
