* J:\thesis\simulations\hudai.asc
XU1 N004 N003 M MEM_YAKOPCIC
V1 N008 0 PWL file=J:\thesis\pwm_files_test\R2.txt
V2 N009 0 PULSE(-50m 50m 0u 0u 0u 10u 20u)
V3 N012 0 PULSE(-1 1 120u)
V4 N010 0 PULSE(1 -1 120u)
Xprogrammer1 N005 N008 programmer_block
Xswitches1 N003 N004 N010 0 N001 N012 0 N005 N009 switch_block
XU2 0 N006 N002 N011 N007 LT1037
R1 N001 N007 1.98k
R2 N007 N006 1k
R3 N006 N009 1k
V5 N002 0 5
V6 N011 0 -5

* block symbol definitions
.subckt programmer_block memristor input
V1 N001 0 5
V2 N003 0 -5
R1 N002 memristor 1k
XU1 memristor input N002 opamp Aol=100K GBW=10Meg
.include opamp.sub
.ends programmer_block

.subckt switch_block Mem_neg Mem_pos prog_on_pos prog_on_neg main_ckt main_ckton_pos main_ckton_neg programmer input
S1 0 Mem_neg prog_on_pos prog_on_neg SW1
S2 Mem_pos programmer prog_on_pos prog_on_neg SW1
S3 main_ckt Mem_neg main_ckton_pos main_ckton_neg SW1
S4 Mem_pos input main_ckton_pos main_ckton_neg SW1
.model SW1 SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.ends switch_block

.tran 200u
.include yacopcic.txt
.lib LTC.lib
.backanno
.end
